US06376490B1
6,7-Dichloro-2,3-dimethoxy-5-(3-pyridyl)quinoxaline
A mixture of 6,7-dichloro-2,3-dimethoxy-5-iodoquinoxaline (Preparation 108, 0.2 g, 0.519 mmol), 3-pyridylboronic acid (Rec. Trav. Chim. Pays-Bas. 84, 439 (1965)) (0.077 g, 0.623 mmol), tetrakis(triphenylphosphine)palladium(0) (0.03 g, 0.026 mmol) and potassium carbonate (0.143 g, 1.038 mmol) in 1,4-dioxane (12 mL) and water (4 mL) was heated under reflux for 16 hours. After being cooled, the mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate (20 mL) and water (20 mL). The phases were separated and the aqueous phase extracted with ethyl acetate (2×40 mL). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel, by gradient elution using dichloromethane:methanol (1:0 changing to 99:1, by volume) to afford the title compound (0.051 g, 29%) as a yellow solid.

reactant | 6,7-dichloro-2,3-dimethoxy-5-iodoquinoxaline | 0.519 mmol, 0.2 g | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)I | C10H7Cl2IN2O2
reactant | 3-pyridylboronic acid | 0.623 mmol, 0.077 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 1.038 mmol, 0.143 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.026 mmol, 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6,7-Dichloro-2,3-dimethoxy-5-(3-pyridyl)quinoxaline | 0.051 g, 29% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)C=1C=NC=CC1 | C15H11Cl2N3O2
